US09034311B2
a) 5-Chloro-2-methoxy-3-nitropyridine
A solution of sodium methoxide (0.84 g, 16.6 mmol) in methanol (4 mL) was added dropwise to a solution of 2,5-dichloro-3-nitropyridine (1.00 g, 5.2 mmol) in methanol (10 mL) and the mixture was stirred and heated to reflux. After 7 hours, the mixture was cooled and diluted with water and the precipitate was filtered, washed with water and dried to give the title compound (0.95 g, 97%) as a white solid.

reactant | sodium methoxide | 16.6 mmol, 0.84 g | C[O-].[Na+]
reactant | 2,5-dichloro-3-nitropyridine | 5.2 mmol, 1.00 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | 5-Chloro-2-methoxy-3-nitropyridine | 0.95 g, 97% | ClC=1C=C(C(=NC1)OC)[N+](=O)[O-] | C6H5ClN2O3
